US04472305
Condensation of BocPro-DPhe-PheNHNH2 (1.98 g.) and HGly-Leu-MetNH2 hydrochloride salt (Example 7, 1.3 g.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocPro-DPhe-Phe-Gly-Leu-MetNH2 in 82% yield. De-t-butoxycarbonylation of BocPro-DPhe-Phe-Gly-Leu-MetNH2 (1.8 g.) using hydrogen chloride in acetic acid gave HPro-DPhe-Phe-Gly-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:1) salt monohydrate in 59% yield.

reactant | BocPro-DPhe-Phe-Gly-Leu-MetNH2 | 1.8 g | N1([C@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C41H59N7O8S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HPro-DPhe-Phe-Gly-Leu-MetNH2 | N1[C@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCCC1 | C37H53N7O6S
